US07893267B2
332 mg (1.0 mmol) of above 2-[(isoquinoline-3-carbonyl)-amino]-1H-benzoimidazole-4-carboxylic acid (0.33 g, 1.0 mmol) was reacted with 800 mg (2.0 mmol) of HBTU and 2-aminoimidazole sulfate (400 mg, 3.0 mmol) in 3.0 mL of DMF and 1.0 mL of DIEA as described in general procedure A. After cooling to room temperature, the reaction mixture was diluted with 0.6 mL of 5 N NaOH aq. solution and 4.0 mL of brine. The solid was collected by filtration and washed with 2 N NaOH aq. (3.0 mL), followed by H2O and EtOAc (3× of each), to give 224.0 mg of the crude compound. The crude was heated in 3.0 mL of DMF at 80° C. for 20 minutes. The filter cake was washed by another 1.0 mL of hot DMF. The combined filtrate was reheated to a clear solution, then cooled and addition of 2.0 mL of EtOAc, followed by 4.0 mL of H2O. The mixture was stirred, and a solid was gradually formed between EtOAc and DMF/H2O layers. The solid was collected by filtration and washed with H2O, EtOAc and MeOH (3× of each), then dried, to yield isoquinoline-3-carboxylic acid [4-(1H-imidazol-2-ylcarbamoyl)-1H-benzoimidazol-2-yl]-amide (83.0 mg, 21%). LCMS: 398.0 (M+1)+. 1H NMR (DMSO-d6, 400 MHz): δ 12.29 (s, 1H), 11.86 (s, 1H), 9.52 (s, 1H), 8.81 (s, 1H), 8.31 (t, 2H), 7.80-7.95 (m, 4H), 7.32 (t, 1H), 6.88 (s, 1H), 6.77 (s, 1H) ppm.

reactant | 2-[(isoquinoline-3-carbonyl)-amino]-1H-benzoimidazole-4-carboxylic acid | 1.0 mmol, 332 mg | C1=NC(=CC2=CC=CC=C12)C(=O)NC1=NC2=C(N1)C=CC=C2C(=O)O | C18H12N4O3
reactant | HBTU | 2.0 mmol, 800 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-aminoimidazole sulfate | 3.0 mmol, 400 mg | S(=O)(=O)(O)O.NC=1NC=CN1
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
solvent | DIEA | 1.0 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | NaOH | 5 N, 0.6 mL | [OH-].[Na+]
solvent | brine | 4.0 mL | [Cl-].[Na+].O
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
product | isoquinoline-3-carboxylic acid [4-(1H-imidazol-2-ylcarbamoyl)-1H-benzoimidazol-2-yl]-amide | 83.0 mg, 21% | N1C(=NC=C1)NC(=O)C1=CC=CC=2NC(=NC21)NC(=O)C=2N=CC1=CC=CC=C1C2 | C21H15N7O2
